US08242130B2
In a 50 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 2-amino acetophenone (1.0 g, 7.39 mmol), THF (15 mL) and Et3N (2.39 g, 23.64 mmol). To the solution p-methoxy benzoyl chloride (1.32 g, 7.76 mmol) in THF (15 mL) was added slowly at 0° C. and stirred for 30 min at 0° C. Then the reaction mixture was stirred for 24 h at rt under nitrogen. The reaction mixture was poured into ice water. The crude product was collected and crude product was purified by column chromatography using 25% EtOAc in hexane to give 1.865 g of N-(2-acetylphenyl)-4-methoxybenzamide (93%).

reactant | 2-amino acetophenone | 7.39 mmol, 1.0 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | Et3N | 23.64 mmol, 2.39 g | CCN(CC)CC | C6H15N
reactant | p-methoxy benzoyl chloride | 7.76 mmol, 1.32 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-(2-acetylphenyl)-4-methoxybenzamide | 1.865 g, 93% | C(C)(=O)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)OC)=O | C16H15NO3
